US07723524B2
Ethyl 3-hydroxyiminomethyl-2,4,5-trifluorobenzoate
Ethyl 3-acetoxymethyl-2,4,5-trifluorobenzoate (15.0 g, 54.2 mmol) was dissolved in ethanol (280 mL), and to the resultant solution, 21 wt % sodium ethoxide-ethanol solution (18.9 mL, 54.2 mmol) was added dropwise while cooling with ice. The resultant mixture was stirred at the same temperature for 10 minutes. While cooling with ice, saturated aqueous ammonium chloride (300 mL) was added to the reaction mixture and ethanol was concentrated under reduced pressure. The residual aqueous layer was extracted with ethyl acetate (300 mL×2). The organic layers were combined and washed with saturated brine (500 mL), followed by drying with sodium sulfate anhydrate. After filtration, the filtrate was concentrated under reduced pressure. The residue was dissolved in dichloromethane (50 mL), and while cooling with ice, the resultant solution was added dropwise to a suspension prepared through adding pyridinium dichromate (PDC) (40.2 g, 107 mmol) and Molecular Sieves 4A (40 g) to dichloromethane (150 mL). After completion of dropwise addition, the reaction mixture was stirred at room temperature for 16 hours, and diethyl ether (200 mL) and silica gel (40 g) were added thereto. The resultant mixture was concentrated under reduced pressure until the volume of the solvent was reduced to half. The solid matter that precipitated was separated through filtration and washed with diethyl ether. Subsequently, the filtrate and the wash solution were combined. The mixture was concentrated under reduced pressure. The residue was dissolved in ethanol (200 mL). Hydroxylamine hydrochloride (3.90 g, 56.1 mmol) was added to the resultant solution, and the mixture was stirred at 50° C. for 19 hours. The reaction mixture was concentrated under reduced pressure. The residue was dissolved in ethyl acetate (300 mL). The resultant solution was washed with water (300 mL) and saturated brine (300 mL), and dried with sodium sulfate anhydrate. After filtration, the filtrate was concentrated under reduced pressure. The residue was recrystallized from chloroform/n-hexane, to thereby yield the title compound as a white solid (12.2 g, 91%).

reactant | Ethyl 3-acetoxymethyl-2,4,5-trifluorobenzoate | 54.2 mmol, 15.0 g | C(C)(=O)OCC=1C(=C(C(=O)OCC)C=C(C1F)F)F | C12H11F3O4
reactant | sodium ethoxide ethanol | 54.2 mmol, 18.9 mL | [O-]CC.[Na+].C(C)O
reactant | ammonium chloride | 300 mL | [Cl-].[NH4+]
reactant | pyridinium dichromate | 107 mmol, 40.2 g | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
reactant | Hydroxylamine hydrochloride | 56.1 mmol, 3.90 g | Cl.NO
solvent | ethanol | 280 mL | C(C)O | C2H6O
solvent | diethyl ether | 200 mL | C(C)OCC | C4H10O
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
product | Ethyl 3-hydroxyiminomethyl-2,4,5-trifluorobenzoate | 12.2 g, 91% | ON=CC=1C(=C(C(=O)OCC)C=C(C1F)F)F | C10H8F3NO3
